US07553849B2
N-(2,5-Difluorophenyl)-6,7-dihydro-4-hydroxy-N,3,7-trimethyl-6-oxo-thieno[2,3-b]pyridine-5-carboxamide (Method B)
To 6,7-dihydro-3,7-dimethyl-4-hydroxy-6-oxo-thieno[2,3-b]pyridine-5-carboxylic acid (4.18. mmol, 1.0 g) in dichloromethane (10 ml), triethylamine (4 equiv., 16.7 mmol, 2.4 ml) and N-methyl-2,5-difluoroaniline (1.2 equiv., 5.0 mmol, 720 mg) were added. To the mixture stirred under nitrogen and cooled to 0° C., a solution of thionyl chloride (1.3 equiv., 5.4 mmol, 0.4 ml) in dichloromethane (5 ml) then was added during 30 min. The stirring was continued at 0° C. for 1 h and then at room temperature for another 20 min. The reaction mixture was diluted with chloroform and quickly washed with cold 1M sulphuric acid. The organic phase then was immediately extracted with 0.5 M NaOH. Remaining traces of chlorinated organic solvents were removed using a rotary evaporator. The pH was adjusted to just above the point where the desired product starts to precipitate (approximately pH 6.5) and the solution was filtered through celite. The product was precipitated by acidification with 1 M HCl until pH was approximately 1-2 and the mixture was allowed to stand for 2 hrs. The resulting precipitate was collected by filtration, washed with water, and dried under reduced pressure to give the title compound (1.26 g, 83%).

reactant | 6,7-dihydro-3,7-dimethyl-4-hydroxy-6-oxo-thieno[2,3-b]pyridine-5-carboxylic acid | 1.0 g | CC1=CSC=2N(C(C(=C(C21)O)C(=O)O)=O)C | C10H9NO4S
reactant | triethylamine | 16.7 mmol, 2.4 ml, 4 equiv. | C(C)N(CC)CC | C6H15N
reactant | N-methyl-2,5-difluoroaniline | 5.0 mmol, 720 mg, 1.2 equiv. | CNC1=C(C=CC(=C1)F)F | C7H7F2N
reactant | thionyl chloride | 5.4 mmol, 0.4 ml, 1.3 equiv. | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(2,5-Difluorophenyl)-6,7-dihydro-4-hydroxy-N,3,7-trimethyl-6-oxo-thieno[2,3-b]pyridine-5-carboxamide | 1.26 g, 83% | FC1=C(C=C(C=C1)F)N(C(=O)C1=C(C2=C(N(C1=O)C)SC=C2C)O)C | C17H14F2N2O3S
